US04042706
27.6 g. of 2-(4-methylphenylhydrazono)-3-morpholinomethylene-3-phenylpropionic acid ethyl ester are treated with 260 ml. of dioxane and 80 ml. of 2N hydrochloric acid and are heated under reflux for 45 minutes. The reaction is allowed to cool and then is concentrated in vacuum, the residue being taken up in chloroform. The chloroform phase is washed with water and concentrated in vacuum. The residue is treated with petroleum ether. 17.1 g. of 4-phenyl-1-(4-tolyl)-3-pyrazolecarboxylic acid ethyl ester, melting point 115°-117° C., is obtained.

reactant | 2-(4-methylphenylhydrazono)-3-morpholinomethylene-3-phenylpropionic acid ethyl ester | C(C)OC(C(C(C1=CC=CC=C1)=CN1CCOCC1)=NNC1=CC=C(C=C1)C)=O | C23H27N3O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-phenyl-1-(4-tolyl)-3-pyrazolecarboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C=C1C1=CC=CC=C1)C1=CC=C(C=C1)C | C19H18N2O2
